US09403807B2
Step A: methyl 2-(4-(tert-butoxycarbonylamino)-1H-indol-1-yl)-2-(4-chlorophenyl)-4-fluorobutanoate
To a suspension of NaH (60% dispersion in mineral oil) (22 mg, 0.55 mmol) in anhydrous DMF (3 mL) under nitrogen atmosphere was added methyl 2-(4-(tert-butoxycarbonylamino)-1H-indol-1-yl)-2-(4-chlorophenyl)acetate (207 mg, 0.5 mmol), as described in Example 2 step B, in anhydrous DMF (2 mL) and the mixture was then stirred at 0° C. for 1 h. To this mixture was added 1-fluoro-2-iodoethane (17.4 mg, 1 mmol), and the mixture was then stirred at room temperature for 4 h. The volatile was evaporated. The residue was purified by silica gel chromatography eluting with PE/EA (10/1 to 3/1, v/v) to afford the title compound as a white solid. LC/MS m/z=405.1[M+H]+.

reactant | NaH | 0.55 mmol, 22 mg | [H-].[Na+]
reactant | methyl 2-(4-(tert-butoxycarbonylamino)-1H-indol-1-yl)-2-(4-chlorophenyl)acetate | 0.5 mmol, 207 mg | C(C)(C)(C)OC(=O)NC1=C2C=CN(C2=CC=C1)C(C(=O)OC)C1=CC=C(C=C1)Cl | C22H23ClN2O4
reactant | 1-fluoro-2-iodoethane | 1 mmol, 17.4 mg | FCCI | C2H4FI
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | methyl 2-(4-(tert-butoxycarbonylamino)-1H-indol-1-yl)-2-(4-chlorophenyl)-4-fluorobutanoate | C(C)(C)(C)OC(=O)NC1=C2C=CN(C2=CC=C1)C(C(=O)OC)(CCF)C1=CC=C(C=C1)Cl | C24H26ClFN2O4
